US07622480B2
C. Preparation of 3-(1-ethoxycarbonyl-piperidin-4-yl)pyrrolo[2,3-b]pyridine-1-carboxylic acid ethyl ester
1.87 g of palladium, 10% (dry basis) on activated carbon (50% in water) were added over a solution of 8-48 g (24.7 mmol) of 3-(1-ethoxycarbonyl-1,2,3,6-tetrahydro-pyridinyl) pyrrolo[2,3-b]pyridine-1-carboxylic acid ethyl ester in 250 ml methanol and this mixture was hydrogenated at 2 bar for 20 hours. After filtering through Celite and removing the solvent under reduced pressure, 7.27 g (85% of yield) of the expected product were obtained.

reactant | 3-(1-ethoxycarbonyl-1,2,3,6-tetrahydro-pyridinyl) pyrrolo[2,3-b]pyridine-1-carboxylic acid ethyl ester | 24.7 mmol, 8-48 g | C(C)OC(=O)N1C=C(C=2C1=NC=CC2)C2N(CC=CC2)C(=O)OCC | C18H21N3O4
solvent | methanol | 250 ml | CO | CH4O
product | 3-(1-ethoxycarbonyl-piperidin-4-yl)pyrrolo[2,3-b]pyridine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C=C(C=2C1=NC=CC2)C2CCN(CC2)C(=O)OCC | C18H23N3O4
